US04357282
A nitrogen-flushed, 500 ml 3-neck pot, equipped as described in Example 17, was charged with 340.3 g (1.56 mol) of ethyl-2-ethoxytetrafluoropropionate and 19.5 g (0.09 mol) of SbF5. Gas was evolved. The mixture was heated and distilled to give 220 g (83.0% yield) of ethyl trifluoropyruvate, b.p. 88° to 89°. The gaseous product was collected and identified by IR as largely ethyl fluoride.

reactant | ethyl-2-ethoxytetrafluoropropionate | 1.56 mol, 340.3 g | C(C)OC(C(C(F)(F)F)(OCC)F)=O | C7H10F4O3
reactant | antimony pentafluoride | 0.09 mol, 19.5 g | [Sb](F)(F)(F)(F)F
product | ethyl trifluoropyruvate | 220 g, 83.0% yield | FC(C(C(=O)OCC)=O)(F)F | C5H5F3O3
